* Ring Diode Mixer using normal diode (D)
.options verbose

* Set tolerance in nonlinear iterations (ftol)
.options ftol=1e-10

* Jacobian update method (jupdm)
* 0 Jacbian updated every iteration
* 1 Use Broyden's quasi-Newton update method
* 2 Use Lee and Lee's quasi-Newton update method (default)
.options jupdm=0

.tran2 tstop=1us tstep=1ps

*Behavioral model frequencies
* foin = center frequency of input signal 
* fLO1 = Frequency of LO1
* fLO2 = Frequency of LO2
* fLO3 = Frequency of LO3
* fBPF1 = center frequency of BPF1
* fBPF2 = center frequency of BPF1
* fBPF3 = center frequency of BPF1
* tstep = maximum time step to capture waveforms

******************
* native frequencies (actual frequencies in ARC-210)
.options foin=300e6
.options fLO1=1573.12e6 fLO2=1162.56e6 fLO3=90.42e6
.options fbpf1=20.14e6 fbpf2=1273.12e6 fbpf3=110.56e6


******************
* Input signal
* -40 dBm into 50 ohms corresponds to a peak voltage of 0.1 V
.options f1=299.4megaHz
.options f2=299.5megaHz
vsource:1 1 0 vac=0.1 f=f1 phase=90
vsource:2 2 1 vac=0.1 f=f2 phase=90
R:RF 2 RF1 r=50

******************
******************************************************
* Ring Diode Mixer 1
* Local Oscillator
vsource:lo1 LO1internal 0 vac=2 f=fLO1 phase=90
R:LO1 LO1internal LO1 r=50

C:L11 RF1  0 C=1pF
C:LO1 LO1  0 C=1pF

* Center-tapped transformer with RF
L:L11 RF1  0 L=10nH
L:L12 40 IF1 L=10nH
L:L13 IF1 20 L=10nH
K:K11 coupling=0.999 L1="L:L11" L2="L:L12"
K:K12 coupling=0.999 L1="L:L11" L2="L:L13"
K:K13 coupling=0.999 L1="L:L12" L2="L:L13"

d:11 40 60 r0=2
c:11 40 60 c=1pF
d:12 50 40 r0=2
c:12 50 40 c=1pF
d:13 60 20 r0=2
c:13 60 20 c=1pF
d:14 20 50 r0=2
c:14 20 50 c=1pF

* Center-tapped transformer with LO
L:L14 50   0 L=10nH
L:L15  0  60 L=10nH
L:L16  0 LO1 L=10nH
K:K14 coupling=0.999 L1="L:L14" L2="L:L15"
K:K15 coupling=0.999 L1="L:L14" L2="L:L16"
K:K16 coupling=0.999 L1="L:L15" L2="L:L16"

R:IF11 IF1 0  r=50
C:IF11 IF1 0  c=1pF

******************
*plot commands

* Use gnuplot assuming that X-Windows is available
.options gnuplot 

* set up plot preamble with font and label information

* LO
.options plotVT1Preample="set term x11 font 'helvetica,13';
         set title 'Voltage at LO terminal';
         set xlabel 'TIME (microseconds)'; set ylabel 'VOLTAGE' "
.out plot term "LO1" vt 1e6 scalex plotVT1Preample in "out.vt.term.lo1" 

* RF
.options plotVT1Preample="set term x11 font 'helvetica,13';
         set title 'Voltage at RF terminal';
         set xlabel 'TIME (microseconds)'; set ylabel 'VOLTAGE' "
.out plot term "RF1" vt 1e6 scalex plotVT1Preample in "out.vt.term.rf1" 

* IF
.options plotVT1Preample="set term x11 font 'helvetica,13';
         set title 'Voltage at IF terminal';
         set xlabel 'TIME (microseconds)'; set ylabel 'VOLTAGE' "
.out plot term "IF1"  vt 1e6 scalex plotVT1Preample in "out.vt.term.if1" 

* Diode
.options plotVT1Preample="set term x11 font 'helvetica,13';
         set title 'Voltage Across Diode';
         set xlabel 'TIME (microseconds)'; set ylabel 'VOLTAGE' "
.out plot term "40"  vt term "60" vt -
+    1e6 scalex plotVT1Preample in "out.vt.term.d" 

.end
